US08957073B2
To a solution of [1-(3-piperidin-4-yl-pyrazin-2-yl)-piperidin-4-yl]-methanol hydrochloride (156 mg, 0.5 mmol) and 2-chloro-quinoline (81.5 mg 0.5 mmol) in DMF (5 mL) was added Cs2CO3 (325 mg, 1 mmol). The reaction mixture was stirred at 100° C. overnight. The reaction mixture was diluted with water, extracted with EtOAc (2×20 mL). The combined organic extracts were washed with water (15 mL) and brine (15 mL), dried over Na2SO4 and filtered. The filtrate was evaporated in vacuo and the residue was purified by flash column chromatography on silica gel to give {1-[3-(1-quinolin-2-yl-piperidin-4-yl)-pyrazin-2-yl]-piperidin-4-yl}-methanol (142 mg, 0.35 mmol, yield 70.47%).

reactant | [1-(3-piperidin-4-yl-pyrazin-2-yl)-piperidin-4-yl]-methanol hydrochloride | 0.5 mmol, 156 mg | Cl.N1CCC(CC1)C=1C(=NC=CN1)N1CCC(CC1)CO
reactant | 2-chloro-quinoline | 0.5 mmol, 81.5 mg | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | Cs2CO3 | 1 mmol, 325 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {1-[3-(1-quinolin-2-yl-piperidin-4-yl)-pyrazin-2-yl]-piperidin-4-yl}-methanol | 0.35 mmol, 142 mg, yield 70.47% | N1=C(C=CC2=CC=CC=C12)N1CCC(CC1)C=1C(=NC=CN1)N1CCC(CC1)CO | C24H29N5O
